US07582673B2
To a solution of 2-chloro-N-[2-(4-chloro-benzenesulfonylamino)phenyl]-5-trifluoromethylbenzenesulfonamide (0.5 mmol) in dioxane (5 mL), solid sodium methoxide (2 mmol) was added in one portion and the resulting reaction mixture was then heated to reflux for ca. 4 h. After the completion of the reaction, the reaction mixture was cooled to RT and concentrated in vacuo. The residue obtained was redissolved in EtOAc (10 mL) and washed with water (10 mL) and brine (10 mL). The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to obtain 160 mg of N-[2-(4-chlorobenzenesulfonylamino)phenyl]-2-methoxy-5-trifluoromethylbenzenesulfonamide. LC: Tr 1.22 min; MS: 521.8 (M+1)+.

reactant | 2-chloro-N-[2-(4-chloro-benzenesulfonylamino)phenyl]-5-trifluoromethylbenzenesulfonamide | 0.5 mmol | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C19H13Cl2F3N2O4S2
reactant | sodium methoxide | 2 mmol | C[O-].[Na+]
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-[2-(4-chlorobenzenesulfonylamino)phenyl]-2-methoxy-5-trifluoromethylbenzenesulfonamide | 160 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)OC | C20H16ClF3N2O5S2
